US07919488B2
N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylpropanamide
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine (150 mg, 0.37 mmol) in DCM (3 mL) at room temperature was added triethylamine (56 μL, 0.40 mmol) followed by propanoyl chloride (32 μL, 0.37 mmol) and the solution stirred for 10 minutes. The solution was then loaded directly onto a pre-wetted Biotage 25M column for flash chromatography and eluted with 2-8% MeOH/DCM to yield the title compound as a white solid, 108 mg, 63%. 1H NMR (mix of rotomers, 400 MHz, DMSO-D6) δ ppm 8.52 (2 H, d, J=6.06 Hz) 7.57-7.76 (2 H, m), 7.30 (2 H, dd, J=8.46, 5.68 Hz, 7.15 (2 H, t, J=8.84 Hz), 6.52 (1 H, s), 5.05-5.43 (2 H, m), 4.46-4.62 (0.5 H, m), 4.38 (1 H, d, J=12.63 Hz), 3.85-4.00 (3.5 H, m), 3.05-3.23 (1 H, m), 2.77 (2 H, s), 2.65 (1 H, s), 2.55-2.63 (1 H, m), 2.39 (1 H, q, J=7.33 Hz), 2.29 (1 H, q, J=7.33 Hz), 1.41-1.80 (4 H, m), 0.98 (3 H, q, J=7.49 Hz); m/z (APCI+) for C26H30N5O2F 464.2 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}-N-methylpiperidin-4-amine | 0.37 mmol, 150 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC)C2=CC=NC=C2)C=C1 | C23H26FN5O
reactant | triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | propanoyl chloride | 0.37 mmol, 32 μL | C(CC)(=O)Cl | C3H5ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N-methylpropanamide | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N(C(CC)=O)C)C2=CC=NC=C2)C=C1 | C26H30FN5O2
